US08975398B2
tert-butyl 4-(4-(1-(6-fluoropyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate
The title compound was prepared as described in Example 147A, substituting tert-butyl 4-(4-(azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate for tert-butyl 4-(4-(azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate and 3,6-difluoropyridazine for 3,6-dichloropyridazine.

reactant | tert-butyl 4-(4-(azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate | N1CC(C1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H29N3O3
reactant | 3,6-difluoropyridazine | FC=1N=NC(=CC1)F | C4H2F2N2
reactant | 3,6-dichloropyridazine | ClC=1N=NC(=CC1)Cl | C4H2Cl2N2
product | tert-butyl 4-(4-(1-(6-fluoropyridazin-3-yl)azetidine-3-carboxamido)phenyl)piperidine-1-carboxylate | FC1=CC=C(N=N1)N1CC(C1)C(=O)NC1=CC=C(C=C1)C1CCN(CC1)C(=O)OC(C)(C)C | C24H30FN5O3
